US04060633
A mixture of 27.9 g. of 1-chloro-3-(4'-fluoro-4-biphenylyl)-butan-3-ol, 8.7 g. of KF, 10 ml. of ethylene glycol and 5 ml. of diethylene glycol is heated to 140° - 150° for 8 hours. It is cooled and worked up in the customary manner and gives 1-fluoro-3-(4'-fluoro-4-biphenylyl)-butan-3-ol, m.p. 90° - 92°.

reactant | 1-chloro-3-(4'-fluoro-4-biphenylyl)-butan-3-ol | ClCCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C16H16ClFO
reactant | KF | [F-].[K+]
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 1-fluoro-3-(4'-fluoro-4-biphenylyl)-butan-3-ol | FCCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C16H16F2O
